US04935441
A solution of 1.35 g 4-chloro-3-formyl-flav-3-ene and 7.6 g cesium fluoride in 10 ml dimethylformamide is stirred at 110° C. over 40 minutes. After cooling to room temperature water is added and the solution is extracted with methylene chloride. The organic phase is washed with water, and dried over magnesium sulfate. The solid residue is purified by column chromatography and the best fractions are crystallised in hexane. Pure 4-fluoro-3-formyl-flav-3-ene is obtained as yellow crystals; m.p. 114°-115° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 1.35 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | cesium fluoride | 7.6 g | [F-].[Cs+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-fluoro-3-formyl-flav-3-ene | FC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11FO2
